datasets/10k_Mayr_OG.csv
SMILES Labelled
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCC1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCC[CH:10]1[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][P:61]([CH:10]=[C:11]=[N-:12])(=[O:62])[O:82]CC.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:72][P:61]([CH:10]([C:11]#[N:12])[CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33].[H][C:11]1([H:10])[C:12](C(=O)OCC)=[CH:13][NH:14][CH:63]=[C:64]1C(=O)OCC>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][H:10].[H][C:11]1=[C:12](C(=O)OCC)[CH:13]=[NH+:14][CH:63]=[C:64]1C(=O)OCC 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:73]=[CH:72]1>>C[Si](C)(C)[C+:11]([CH2:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:73]=[CH:72]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].CC(C)(C)[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10]>>CC(C)(C)[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1>>C1=CC=C([C:11]([CH2:10][CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[NH+:12][C:63](C2=CC=CC=C2)=[O:64])C=C1 10,11=10,20;12=11,12"
"CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC[NH:10]CC.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>CC[NH+:10](CC)[Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10=20;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[CH:10]1=[CH:11][CH:12]=[CH:13][NH:14]1>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[NH+:14]2)[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10,11=10,20;12,13=11,12;14=13,14"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20"
"CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][C:11](C)=[CH:10]2)[CH:63]=[CH:64]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[C:11](C)[CH:10]2[C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10]C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.CC[O:82][C:71]([CH-:10][S+:61](C)C)=[O:72]>>CC[O:82][C:71]([CH:10]([C:20]([S-:21])=[N:31]C1=CC=CC=C1)[S+:61](C)C)=[O:72] 10=20;20,21=21"
"CN1CC[C:20](=[O:21])CC1.C[O:12][C:11]1=[CH:10][CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1>>CN1CC[C:20]([CH:10]2[C:11](=[O+:12]C)[CH:62]=[C:63]([O:64]C)[CH:72]=[CH:71]2)([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
"C1CCC[C:11](=[CH2:10])CC1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C+:11]2CCCCCC2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.Cl[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10](Cl)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
